US07662771B2
Add hexamethylenetetramine (36.14 g, 258 mmol) to a solution of 2-bromo-1-(5-chloro-2-isopropoxyphenyl)ethanone (75.17 g, 258 mmol) in chloroform (400 mL) at room temperature under nitrogen and stir for 2 days. Collect the solids by filtration, wash with diethyl ether, and dry overnight under reduced pressure. Suspend the solids in methanol (350 ml), cool to 0° C., and treat slowly with concentrated HCl (113 ml, 1365 mmol). Warm the mixture to room temperature and stir for 40 hours. Then heat the mixture to 55° C. for an additional 4 hours. Remove the solids by filtration, and remove the filtrate solvent under reduced pressure to provide a solid. Triturate the solid with diethyl ether. Collect the resulting material by filtration to provide 2-amino-1-(5-chloro-2-isopropoxyphenyl)ethanone hydrochloride, which is used in the next step without purification.

reactant | hexamethylenetetramine | 258 mmol, 36.14 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-bromo-1-(5-chloro-2-isopropoxyphenyl)ethanone | 258 mmol, 75.17 g | BrCC(=O)C1=C(C=CC(=C1)Cl)OC(C)C | C11H12BrClO2
reactant | HCl | 1365 mmol, 113 ml | Cl | ClH
solvent | chloroform | 400 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-1-(5-chloro-2-isopropoxyphenyl)ethanone hydrochloride | Cl.NCC(=O)C1=C(C=CC(=C1)Cl)OC(C)C | InChI=1S/C11H14ClNO2.ClH/c1-7(2)15-11-4-3-8(12)5-9(11)10(14)6-13;/h3-5,7H,6,13H2,1-2H3;1H
